US07608633B2
A. 1-(Indol-1-yl)-3-(4-octylphenoxy)propan-2-ol
0.048 g (1.20 mmol) sodium hydride as 60% dispersion in mineral oil are suspended in 10 ml absolute DMF, stirred at room temperature for 10 min and mixed with a solution of 0.134 g (1.14 mmol) indole in 10 ml absolute DMF. Having stirred for 1½ hours, a solution of 0.300 g (1.14 mmol) 2-(4-octylphenoxymethyl)oxirane in 10 ml absolute DMF is added drop-wise. The mixture is stirred for 16 hours, hydrolyzed with a semi-saturated NaCl solution and extracted four times using diethyl ether. The combined organic phases are concentrated to half the volume on the rotary evaporator and washed three times with saturated NaCl solution. Drying on sodium sulfate, filtration and reconcentration on the rotary evaporator leave as a crude product an orange oil which is purified on silica gel by means of column chromatography (flow agent: petroleum ether/ethyl acetate 95:5) and yields the product as a yellow oil.

reactant | sodium hydride | 1.20 mmol, 0.048 g | [H-].[Na+]
reactant | indole | 1.14 mmol, 0.134 g | N1C=CC2=CC=CC=C12 | C8H7N
reactant | 2-(4-octylphenoxymethyl)oxirane | 1.14 mmol, 0.300 g | C(CCCCCCC)C1=CC=C(OCC2OC2)C=C1 | C17H26O2
reactant | NaCl | [Na+].[Cl-]
solvent | DMF | 10 ml | CN(C)C=O | C3H7NO
solvent | DMF | 10 ml | CN(C)C=O | C3H7NO
solvent | DMF | 10 ml | CN(C)C=O | C3H7NO
product | 1-(Indol-1-yl)-3-(4-octylphenoxy)propan-2-ol | N1(C=CC2=CC=CC=C12)CC(COC1=CC=C(C=C1)CCCCCCCC)O | C25H33NO2
